Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetracycline / Grapefruit / Amoxicillin / Tegaderm 
/ diazepam
 
Attending: ___
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
===========================
___ 09:38AM BLOOD WBC-5.2 RBC-4.49 Hgb-13.4 Hct-41.7 MCV-93 
MCH-29.8 MCHC-32.1 RDW-14.4 RDWSD-49.2* Plt ___
___ 09:38AM BLOOD Glucose-94 UreaN-10 Creat-0.9 Na-141 
K-4.7 Cl-101 HCO3-25 AnGap-15
___ 09:38AM BLOOD Albumin-4.1 Calcium-9.5 Phos-3.9 Mg-1.9

___ 06:20AM BLOOD Cortsol-14.3 DHEA-SO-43
___ 11:39AM BLOOD ALDOSTERONE-PND
___ 11:39AM BLOOD RENIN - FROZEN-PND
___ 11:39AM BLOOD ACTH - FROZEN-PND
___ 06:20AM BLOOD Metanephrines (Plasma)-PND

MICRO: 
======
___ 11:35 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

Blood Cx NGTD x2 

IMAGING/OTHER STUDIES: 
======================
CT a/p  
1.  No acute findings in the abdomen or pelvis. 
2.  Extensive pancolonic diverticulosis without evidence of 
acute diverticulitis. 
3.  Redemonstration of a 4.4 cm heterogeneous right adrenal mass
with foci of  bulk fat, suggesting a myelolipoma, unchanged.

Renal U/S: 
1. Limited examination was terminated early due to patient 
discomfort. 
2. Limited sonographic examination of the right kidney
demonstrated normal morphology.  Normal waveform, but slightly 
increased resistive index of the main right renal artery. 
3. The left kidney and urinary bladder were not assessed on the
current study. 

LABS ON DISCHARGE: 
=================
___ 06:30AM BLOOD WBC-7.3 RBC-4.88 Hgb-14.5 Hct-45.4* 
MCV-93 MCH-29.7 MCHC-31.9* RDW-14.2 RDWSD-48.7* Plt ___
___ 06:30AM BLOOD Glucose-106* UreaN-11 Creat-0.9 Na-143 
K-4.4 Cl-98 HCO3-30 AnGap-15
___ 06:30AM BLOOD Mg-1.___ with hx of obesity, sensory neuropathy (following with 
neurology, receives IVIg infusions), diet controlled DM2, GERD, 
repeated partial SBOs presenting with headache and nausea with 
associated LLQ pain x ___ days, found to have hypertensive 
crisis. 

# Hypertensive crisis: 
Presented with headaches and nausea/vomiting with SBP > 200. 
Previously on BP agents but have been since discontinued with 
exception of Imdur (prescribed for coronary vasospasms). 
Required multiple IV agents in the ED but subsequently well 
managed on the floor with oral agents. Started on HCTZ 12.5 and 
amlodipine 5mg with significant improvement in blood pressures 
and resolution of associated symptoms. CT abd/pelvis obtained in 
setting of "LLQ" pain, notable for 4.4 cm heterogeneous right 
adrenal mass with foci of bulk fat, suggesting a myelolipoma, 
unchanged from prior imaging. Due to her markedly elevated BP 
and adrenal findings, secondary work up for HTN was initiated 
with plasma renin/aldosterone and metanephrines pending at the 
time of discharge. Due to stability of blood pressure, these 
results can be followed up as an outpatient.  Additionally on 
this admission, renal artery ultrasound was obtained but results 
limited as patient did not tolerate due to pain; the left kidney 
was not visualized and the right kidney had normal vascular wave 
form, lowering likelihood of RAS. Patient will need ongoing 
monitoring of blood pressure. If she continues to have 
intermittent episodes of severe hypertension, suspicion for 
pheochromocytoma would increase (unless pending plasma 
metanephrines results are reassuring). 
   
# Frontal headache: 
CT head without acute process (mass, bleed, etc). Markedly 
improved with treatment of HTN.

# Lateral hip/thigh pain: 
History and exam consistent with meralgia paresthetica and 
patients notes improvement with topical lidocaine patches. 
Prescription provided on discharge. 

# Insomnia: 
# Depression: 
Continued home trazodone 50 mg qHS insomnia. Continued home 
sertraline 175 mg PO daily. 

# Hx of coronary vasospasm: 
Continued home isosorbide mononitrate ER 60 mg PO daily. 

# Chronic constipation: 
# Intermittent partial SBOs: 
Recently seen by surgeon Dr. ___, plan to continue current 
bowel regimen: 
docusate 100 mg PO BID, home miralax 17 g PO BID, lactulose 15 
mL qAM.

# Sensory polyneuropathy: 
Continued home gabapentin 100 mg PO BID

TRANSITIONAL ISSUES: 
====================
[] new BP medications: hydrochlorothiazide 12.5 mg daily, 
amlodipine 5mg daily; continue to monitor BP and titrate as 
indicated. 
[] Plasma metanephrines and renin/aldosterone pending on 
discharge. 

> 30 mins spent coordinating discharge
 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. TraZODone 50 mg PO QHS:PRN insomnia 
2. Sertraline 175 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
5. Gabapentin 100 mg PO BID 
6. Atorvastatin 10 mg PO QPM 
7. Aspirin 81 mg PO DAILY 
8. Polyethylene Glycol Dose is Unknown  PO Frequency is Unknown 
9. Nystop (nystatin) 100,000 unit/gram topical BID 
10. Docusate Sodium 100 mg PO BID 
11. Lactulose Dose is Unknown  PO Frequency is Unknown 
12. LORazepam 0.5 mg PO DAILY:PRN anxiety 
13. diclofenac sodium 1 % topical TID:PRN pain 
14. Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH 
15. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 5 mg by mouth once a day Disp #*30 Tablet 
Refills:*0 
2.  Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
3.  Lidocaine 5% Patch 2 PTCH TD QAM 
RX *lidocaine 4 % apply two patches to affected area once a day 
Disp #*10 Patch Refills:*0 
4.  Lactulose 30 mL PO DAILY  
5.  Polyethylene Glycol 17 g PO DAILY  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 10 mg PO QPM  
8.  Cyanocobalamin 1000 mcg IM/SC ONCE PER MONTH  
9.  diclofenac sodium 1 % topical TID:PRN pain  
10.  Docusate Sodium 100 mg PO BID  
11.  Gabapentin 100 mg PO BID  
12.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
13.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
14.  Multivitamins 1 TAB PO DAILY  
15.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
16.  Nystop (nystatin) 100,000 unit/gram topical BID  
17.  Sertraline 175 mg PO DAILY  
18.  TraZODone 50 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# hypertensive crisis: 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___ 
___. You were admitted with headache, nausea, and 
vomiting that occurred secondary to dangerously high blood 
pressures. You were started on two blood pressure medications 
and your blood pressure is now at a safe level. 

Please continue all medications as prescribed. Dr. ___ will 
continue to check your blood pressure and make adjustments as 
needed. 

We wish you the best!

Sincerely, 
Your ___ Team 
 
Followup Instructions:
___